US07919628B2
To (5-trifluoromethyl-pyridin-2-yl)-methanol (1.65 g) in dichloromethane (20 ml) at 0° C. (ice-bath) under nitrogen was added triphenylphosphine (3.66 g, 13.98 mmol) in portions, followed by addition of carbon tetrabromide (3.23 g) in portions. The ice-bath was removed and the flask was sealed with a glass stopper. The reaction mixture was gently stirred for 1 hour. The crude reaction mixture was loaded onto a silica gel column (120g), and eluted with methyl acetate/hexane to give 2-bromomethyl-5-trifluoromethyl-pyridine as a light orange oil (1.65 g, 73%).

reactant | (5-trifluoromethyl-pyridin-2-yl)-methanol | 1.65 g | FC(C=1C=CC(=NC1)CO)(F)F | C7H6F3NO
reactant | triphenylphosphine | 13.98 mmol, 3.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.23 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-bromomethyl-5-trifluoromethyl-pyridine | 1.65 g, 73% | BrCC1=NC=C(C=C1)C(F)(F)F | C7H5BrF3N
